US06649212B2
Synthesis I: A solution of tetrahydroxybenzophenone (Aldrich Chemical) is treated with sufficient caustic, i.e. sodium hydroxide, to prepare a disodium phenolate salt. This salt solution is mixed at a two to one molar ratio with dichloromethylmethoxysilane (Aldrich, United Chemicals) to yield 2,2′ di-(dimethoxymethylsilyoxy), 4,4′dihydroxy-benzophenone having the structure shown in FIG. 8(a).

reactant | tetrahydroxybenzophenone | OC=1C(=C(C(=C(C(=O)C2=CC=CC=C2)C1)O)O)O | C13H10O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | disodium phenolate salt | C1(=CC=CC=C1)[O-].[Na+].[Na+].C1(=CC=CC=C1)[O-]
reactant | dichloromethylmethoxysilane | ClC(Cl)[SiH2]OC | C2H6Cl2OSi
product | 4,4′dihydroxy-benzophenone | OC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H10O3
